US07737166B2
2-Cyclopropyl-7-fluoro-6-(2-fluorophenyl)-5-methyl-1,3-benzoxazole-4-carbonitrile (I-175)
6-Bromo-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-77) (200 mg, 0.68 mmol), 2-fluorophenylboronic acid (380 mg, 2.71 mmol) and tripotassium phosphate (288 mg, 1.36 mmol) were dissolved in 1,4-dioxane (8 ml), then at room temperature, tetrakis(triphenylphosphine)palladium(0) (157 mg, 0.14 mmol) was added. The solution was stirred under nitrogen atmosphere at 95° C. for 48 hours. After cooling to room temperature, aqueous saturated ammonium chloride solution was added to the reaction liquid, followed by stirring at room temperature for 5 minutes. This was extracted twice with ethyl acetate.

reactant | 6-Bromo-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 0.68 mmol, 200 mg | BrC=1C(=C2C(N=C(O2)C2CC2)=C(C1C)C#N)F | C12H8BrFN2O
reactant | 2-fluorophenylboronic acid | 2.71 mmol, 380 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | tripotassium phosphate | 1.36 mmol, 288 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.14 mmol, 157 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Cyclopropyl-7-fluoro-6-(2-fluorophenyl)-5-methyl-1,3-benzoxazole-4-carbonitrile | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)C2=C(C=CC=C2)F)C)C#N | C18H12F2N2O
